US07423158B2
Step c) 2-Amino-5-[4-(difluoromethoxy)phenyl]-5-(3-hydroxyphenyl)-3-methyl-3,5-dihydro-4H-imidazol-4-one
A mixture of 1-(4-(difluoromethoxy)phenyl)-2-(3-hydroxyphenyl)ethane-1,2-dione (2.75 g), N-methylguanidine hydrochloride (1.237 g) and sodium carbonate (2.20 g) in ethanol was heated at 85° C. for 8 h, cooled to room temperature and evaporated in vacuo. The resultant residue was partitioned between water and chloroform. The organic phase was separated, dried over Na2SO4 and evaporated to a light brown oil. The oil was purified by flash chromatography (silica gel) using step gradient elution (100% chloroform to 15% methanol/chloroform) to afford the title compound as a white foamy glass, 2.20 g; 1H NMR (DMSO-d6): δ 9.24 (bs, 1H), 7.42 (d, J=8.8 Hz, 2H), 7.12 (t, J=74.3 Hz, 1H), 7.06 (d, J=8.8 Hz, 2H), 7.02 (m, 1H), 6.80 (m, 2H), 6.57 (bs, 2H), and 6.56 (m, 1H); MS (APPI) m/z 348.

reactant | 1-(4-(difluoromethoxy)phenyl)-2-(3-hydroxyphenyl)ethane-1,2-dione | 2.75 g | FC(OC1=CC=C(C=C1)C(C(=O)C1=CC(=CC=C1)O)=O)F | C15H10F2O4
reactant | N-methylguanidine hydrochloride | 1.237 g | Cl.CNC(=N)N
reactant | sodium carbonate | 2.20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 2-Amino-5-[4-(difluoromethoxy)phenyl]-5-(3-hydroxyphenyl)-3-methyl-3,5-dihydro-4H-imidazol-4-one | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)O)C1=CC=C(C=C1)OC(F)F | C17H15F2N3O3
